US07550469B2
32c: Preparation of 4-(5-methyl-thieno[2,3-d]isoxazol-3-yl)-piperidine-1-carboxylic acid
Prepared essentially as 2211-198 except that 4-[1-(3-bromo-5-methyl-thiophen-2-yl)-1-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester is used as the starting material. Two other differences are: 1) 0.05 equivalents of copper iodide is used, and 2) no partition between ethyl acetate and water accompanied by subsequent extraction with ethyl acetate is required. Purification of the residue via flash column chromatography uses a mixture of ethyl acetate: n-heptane (1:4) to yield a white solid. LC/MS (ESI), m/e 345 (MNa+), retention time 2.12 minutes. Condition II.

reactant | 4-[1-(3-bromo-5-methyl-thiophen-2-yl)-1-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=NO)C=1SC(=CC1Br)C | C16H23BrN2O3S
catalyst | copper iodide | 0.05 equivalents | [Cu](I)I
product | 4-(5-methyl-thieno[2,3-d]isoxazol-3-yl)-piperidine-1-carboxylic acid | CC1=CC2=C(C(=NO2)C2CCN(CC2)C(=O)O)S1 | C12H14N2O3S
